US05008274
10 Grams (39.7 mM) of 6-(4-chlorobutyryl)-3,4-dihydrocarbostyril was dissolved in 300 ml of benzene, then to this solution was added 7.4 g (120 mM) of ethylene glycol and 300 mg of p-toluenesulfonic acid, and the whole mixture was refluxed by heating under dehydrating in Dean-Stark extractor for 6 hours. The reaction mixture was cooled and neutralized with an aqueous solution saturated with sodium hyfrogen carbonate, then extracted with chloroform. The chloroform extract was washed with water then dried with anhydrous magnesium sulfate, then concentrated by removing the solvent by evaporation. The residue thus obtained was purified by means of a silicagel column chromatography (eluent: chloroform:methanol=40:1) to yield 10.5 g of 6-(1-ethylenedioxy-4-chlorobutyl)-3,4-dihydrocarbostyril.

reactant | 6-(4-chlorobutyryl)-3,4-dihydrocarbostyril | 39.7 mM | ClCCCC(=O)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
reactant | ethylene glycol | 120 mM, 7.4 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 300 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium | [Na] | Na
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 6-(1-ethylenedioxy-4-chlorobutyl)-3,4-dihydrocarbostyril | 10.5 g | C1OC(C(CCCl)OC1)C=1C=C2CCC(NC2=CC1)=O | C15H18ClNO3
